US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-[(6-methyl-3-pyridyl)carbonyl]thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 6-methylnicotinic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 6-methyl-3-pyridinecarbonyl isothiocyanate was prepared using the resultant 6-methyl-3-pyridinecarbonyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 6-methyl-3-pyridinecarbonyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (71 mg, yield 89%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-methylnicotinic acid | 80 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 6-methyl-3-pyridinecarbonyl chloride | CC1=CC=C(C=N1)C(=O)Cl | C7H6ClNO
reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | 6-methyl-3-pyridinecarbonyl isothiocyanate | CC1=CC=C(C=N1)C(=O)N=C=S | C8H6N2OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-[(6-methyl-3-pyridyl)carbonyl]thiourea | 71 mg, yield 89% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(=O)C=1C=NC(=CC1)C | C24H21N5O4S
